US07632832B2
Step B. Methyl N-({[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}carbonyl)-O-[tert-butyl(diphenyl)silyl]serine
4-Amino-1-boc-piperidine (770 mg, 3.85 mmol) and triethylamine (0.536 mL, 3.85 mmol) in tetrahydrofuran (5 mL) was added to a solution of p-nitrophenylchloroformate (775 mg, 3.85 mmol) in tetrahydrofuran (15 mL) at 0° C. After 1 h, additional triethylamine was added (1.07 mL, 7.7 mmol) along with methyl O-[tert-butyl(diphenyl)silyl]serinate (1.38 g, 3.85 mmol). The reaction warmed to ambient temperature and was then heated to 50° C. After 16 h, the mixture was concentrated and redissolved in ethyl acetate. The ethyl acetate layer was washed with saturated sodium bicarbonate solution (3×), water, brine, and dried over sodium sulfate. Purification by silica gel chromatography (100% dichloromethane→8% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (1.8 g). MS 584.62 (M+1)

reactant | 4-Amino-1-boc-piperidine | 3.85 mmol, 770 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | triethylamine | 3.85 mmol, 0.536 mL | C(C)N(CC)CC | C6H15N
reactant | methyl O-[tert-butyl(diphenyl)silyl]serinate | 3.85 mmol, 1.38 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](N)C(=O)OC | C20H27NO3Si
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | Methyl N-({[1-(tert-butoxycarbonyl)piperidin-4-yl]amino}carbonyl)-O-[tert-butyl(diphenyl)silyl]serine | 1.8 g | CN([C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(=O)O)C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C31H45N3O6Si
